US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE
Example 127 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.95 (s, 1H), 7.73 (s, 1H), 7.68 (s, 1H), 7.43–7.38 (m, 1H), 7.37–7.26 (m, 3H), 6.93–6.83 (m, 2H), 3.96–3.61 (m, 1H), 3.26–3.02 (m, 4H), 2.69–2.59 (m, 1H), 2.51–2.40 (m, 2H), 1.90–1.71 (m, 4H), 1.63–1.47 (m, 4H), 1.18 (d, 6H, J=6.9 Hz), 1.15 (s, 6H); ESMS m/e: 502.1 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)F)(C)C | C28H37ClFN3O2
